US06716851B2
4-(3-Ethylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (25 mg, 0.096 mmol) and 3-ethylaniline (18 μl, 0.144 mmol) similar to Example 92 and isolated as a yellow oil (12 mg, 36%). 1H NMR (CDCl3): 8.84-8.82 (m, 1H), 8.57-8.54 (m, 1H), 7.89-7.84 (m, 1H), 7.72 (s, 1H), 7.44-7.40 (m, 1H), 7.34 (d, J=8.7 Hz, 1H), 7.14-7.11 (m, 3H), 7.01 (s, 1H), 2.69 (q, J=7.8 Hz, 2H), 1.27 (t, J=7.8 Hz, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.096 mmol, 25 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 3-ethylaniline | 0.144 mmol, 18 μl | C(C)C=1C=C(N)C=CC1 | C8H11N
product | 4-(3-Ethylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | C(C)C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=CC1 | C18H15F3N4
